US08580777B2
E. (9S,12R)-12-Amino-9-isopropyl-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),14(18),15-trien-11-one
A mixture of 6.82 g (12.62 mmol) of 9H-fluoren-9-ylmethyl ((9S,12R)-9-isopropyl-11-oxo-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),4,14(18),15-tetraen-12-yl)-carbamate and 4.4 g of 10% Pd/C in 880 ml of methanol was stirred under a hydrogen atmosphere at RT. After 6 h, it was filtered and freed of solvent. The residue was separated by preparative HPLC. The required fractions were combined, acetonitrile was evaporated off, and the resulting aqueous solution was made slightly alkaline with sodium bicarbonate. The aqueous phase was extracted several times with ethyl acetate, and the combined organic phases were dried over sodium sulfate, filtered and concentrated. Chromatography on silica gel with ethyl acetate/methanol mixtures afforded the title compound (2.90 g).

reactant | 9H-fluoren-9-ylmethyl ((9S,12R)-9-isopropyl-11-oxo-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),4,14(18),15-tetraen-12-yl)-carbamate | 12.62 mmol, 6.82 g | C(C)(C)[C@H]1COCC=CCOC=2C=CC(C[C@H](C(N1)=O)NC(OCC1C3=CC=CC=C3C=3C=CC=CC13)=O)=CC2 | C33H36N2O5
solvent | methanol | 880 ml | CO | CH4O
catalyst | Pd/C | 4.4 g | [Pd] | Pd
product | (9S,12R)-12-Amino-9-isopropyl-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),14(18),15-trien-11-one | 2.90 g | N[C@H]1C(N[C@H](COCCCCOC=2C=CC(C1)=CC2)C(C)C)=O | C18H28N2O3
